US08466186B2
(d) 4,5-Dichloro-N-methyl-2-nitroaniline
1,2-Dichloro-4-fluoro-5-nitrobenzene (5.00 g, 23.8 mmol) in DMF (5.0 mL) was added to methylamine (10% in toluene, 80.0 g, 258 mmol) and stirred at rt overnight. The reaction mixture was filtered through a pad of ALOX B, washed with DMF/MeOH and concentrated to give the sub-title compound.

reactant | 1,2-Dichloro-4-fluoro-5-nitrobenzene | 23.8 mmol, 5.00 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C6H2Cl2FNO2
reactant | methylamine | 258 mmol, 80.0 g | CN | CH5N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 4,5-Dichloro-N-methyl-2-nitroaniline | ClC1=CC(=C(NC)C=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
